US04153624
(A) Preparation of 4-chlorophenyl isocyanate
4-Chlorophenyl urea (8.5 parts) and a solution of sodium nitrite (6.9 parts) in water (10 parts) were added over 6 hours to a mixture of conc. hydrochloric acid (10.3 parts) chloroform (130 parts) and tetra-n-butyl ammonium fluoroborate (10% by weight based on 4-chlorophenyl urea) at -10° to -5° C. The mixture was stirred for a further 15 minutes then the stirrer stopped and layers allowed to separate. No solid was present at this stage. 5 mls of the organic layer was taken for analysis and the remainder kept cold until required.

reactant | 4-Chlorophenyl urea | ClC1=CC=C(C=C1)NC(=O)N | C7H7ClN2O
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
catalyst | tetra-n-butyl ammonium fluoroborate | F[B-](F)(F)F.C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
